US08865911B2
3-(Bromomethyl)-2-fluorobenzonitrile
NBS (1.729 g, 9.71 mmol) was added to a solution of 2-fluoro-3-methylbenzonitrile (1.25 g, 9.25 mmol) in acetonitrile (25 mL). The obtained mixture was refluxed, and then benzoic peroxyanhydride (0.045 g, 0.18 mmol) was added. The reaction mixture was refluxed overnight, then cooled to r.t. and water was added. The aqueous phase was discarded and the organic phase was dried over MgSO4 and concentrated. The crude product was purified by flash chromatography using a gradient of EtOAc in heptane as eluent to give the title compound (1.39 g, 70% yield): 1H NMR (500 MHz, DMSO-d6) δ ppm 4.75 (s, 2 H) 7.43 (t, 1 H) 7.93 (t, 2 H); MS (EI) m/z 213 M+.

reactant | NBS | 9.71 mmol, 1.729 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-fluoro-3-methylbenzonitrile | 9.25 mmol, 1.25 g | FC1=C(C#N)C=CC=C1C | C8H6FN
reactant | water | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
catalyst | benzoic peroxyanhydride | 0.18 mmol, 0.045 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-(Bromomethyl)-2-fluorobenzonitrile | 1.39 g, 70% yield | BrCC=1C(=C(C#N)C=CC1)F | C8H5BrFN
